US04623659
Seven and eight-tenths grams of 3,4-dihydroxybenzaldehyde were added to 100 ml. of an aqueous solution held at -15° C. containing 7.8 g. of hydroxylamine hydrochloride and 5.5 g. of sodium cyanide. The reaction mixture was stirred overnight at about 0° C. and then filtered. Four g. of 3,4-dihydroxymandelamidoxime monohydrate formed in the above reaction were obtained melting at 151° C. with decomposition (after loss of water of crystallization at about 120° C.) yield=36%.

reactant | 3,4-dihydroxybenzaldehyde | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium cyanide | [C-]#N.[Na+]
product | 3,4-dihydroxymandelamidoxime monohydrate | yield=36% | O.OC=1C=C(C(C(N)=NO)O)C=CC1O | InChI=1S/C8H10N2O4.H2O/c9-8(10-14)7(13)4-1-2-5(11)6(12)3-4;/h1-3,7,11-14H,(H2,9,10);1H2
